US09388176B2
4-bromo-N-(3-isopropylphenyl)picolinamide
In a manner similar to that describe in Preparation 34, 4-bromo-pyridine-2-carboxylic acid and 3-isopropylaniline were converted to the title compound.

reactant | 4-bromo-pyridine-2-carboxylic acid | BrC1=CC(=NC=C1)C(=O)O | C6H4BrNO2
reactant | 3-isopropylaniline | C(C)(C)C=1C=C(N)C=CC1 | C9H13N
product | 4-bromo-N-(3-isopropylphenyl)picolinamide | BrC1=CC(=NC=C1)C(=O)NC1=CC(=CC=C1)C(C)C | C15H15BrN2O
